US04885307
Stage A: 1,5-dihydro-5-isobutyloxy-2H-pyrrol-2-one.
A mixture of 3 g of 5-hydroxy-2H-pyrrol-2-one and 1.5 g of Amberlite IR 120 H in 60 cm3 of isobutanol, is heated to 50° C. for 3 hours, then cooled and filtered, and the solvent is evaporated. After chromatographing the residue on silica (eluent: ethyl acetate), 4 g of the expected product is obtained.

reactant | 5-hydroxy-2H-pyrrol-2-one | 3 g | OC=1C=CC(N1)=O | C4H3NO2
reactant | isobutanol | 60 cm3 | C(C(C)C)O | C4H10O
product | 1,5-dihydro-5-isobutyloxy-2H-pyrrol-2-one | 4 g | C(C(C)C)OC1C=CC(N1)=O | C8H13NO2
